US09359338B2
Step 2: Synthesis of N-[6-(4-nitrophenoxyl)pyrimidin-4-yl]cyclopropanecarboxamide
Mix 4-chloro-6-(4-nitrophenoxyl)pyrimidine (10.6 g, 39.68 mmol), cyclopropanecarboxamide (8.7 g, 99.2 mmol) and 1,4-dioxane (150 mL). Then under N2, add tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 1.8 g, 1.98 mmol], (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 2.5 g, 3.97 mmol), Cs2CO3 (32 g, 99.5 mmol), and stir at 100° C. for 12 hrs. Cool to room temperature, filter, concentration and purification by chromatography (silica gel, DCM:EtOAc=1:5) afford the title compound (5.5 g, 43.6%). MS: (M+1): 301.

reactant | 4-chloro-6-(4-nitrophenoxyl)pyrimidine | 39.68 mmol, 10.6 g | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | cyclopropanecarboxamide | 99.2 mmol, 8.7 g | C1(CC1)C(=O)N | C4H7NO
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 3.97 mmol, 2.5 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | Cs2CO3 | 99.5 mmol, 32 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 1.98 mmol, 1.8 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | N-[6-(4-nitrophenoxyl)pyrimidin-4-yl]cyclopropanecarboxamide | 5.5 g, 43.6% | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=C1 | C14H12N4O4
